US06897224B2
5-Amino-2-quinolone
1.45 g (8.3 mmol) of 5-amino-2-methoxyquinoline is refluxed in 29 ml of 6N HCl for 4.5 hours. It is allowed to cool to room temperature, diluted with water, made basic with NaHCO3, extracted with ethyl acetate, the combined organic extracts are dried (Na2SO4) and concentrated by evaporation. Purification of the residue by chromatography on silica gel with hexane-ethyl acetate yields 670 mg of a yellow solid.

reactant | 5-amino-2-methoxyquinoline | 8.3 mmol, 1.45 g | NC1=C2C=CC(=NC2=CC=C1)OC | C10H10N2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HCl | 6N, 29 ml | Cl | ClH
solvent | water | O | H2O
product | 5-Amino-2-quinolone | 670 mg | NC1=C2C=CC(NC2=CC=C1)=O | C9H8N2O
